US08039460B2
Step B: Benzyl 4-[3-cyclopropyl-1-(ethoxycarbonyl)but-3-en-1-yl]piperidine-1-carboxylate
Dichloro [1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (137 mg, 0.187 mmol) was added to a solution of benzyl 4-[3-bromo-1-(ethoxycarbonyl)but-3-en-1-yl]piperidine-1-carboxylate (795 mg, 1.87 mmol) in ether (6 mL). The reaction mixture was cooled to 0° C. and cyclopropylmagnesium bromide (0.544 g, 3.75 mmol) was added. After 1 h, the mixture was warmed to ambient temperature. After 1 h, the mixture was cooled back to 0° C. and two additional portions of dichloro [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (137 mg, 0.187 mmol) and cyclopropylmagnesium bromide (544 mg, 3.75 mmol) were added. The mixture was warmed to ambient temperature. After 18 h, hydrochloric acid (10% in water) was added and the mixture was extracted with ether (2×). The combined organic extracts were washed with saturated aqueous sodium bicarbonate, water, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% hexanes→50% hexanes/ethyl acetate) gave the title compound (173 mg). MS 386.2 (M+1).

reactant | benzyl 4-[3-bromo-1-(ethoxycarbonyl)but-3-en-1-yl]piperidine-1-carboxylate | 1.87 mmol, 795 mg | BrC(CC(C(=O)OCC)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)=C | C20H26BrNO4
reactant | cyclopropylmagnesium bromide | 3.75 mmol, 0.544 g | C1(CC1)[Mg]Br
reactant | cyclopropylmagnesium bromide | 3.75 mmol, 544 mg | C1(CC1)[Mg]Br
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 6 mL | CCOCC | C4H10O
catalyst | Dichloro [1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct | 0.187 mmol, 137 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
catalyst | dichloro [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.187 mmol, 137 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | Benzyl 4-[3-cyclopropyl-1-(ethoxycarbonyl)but-3-en-1-yl]piperidine-1-carboxylate | 173 mg | C1(CC1)C(CC(C(=O)OCC)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)=C | C23H31NO4
